US06344484B1
2. 2-(3-Hydroxypropoxy)isoindoline-1,3-dione
To a solution of 8.2 g (27 mmol) of 2-[3-(phenylmethoxy)propoxy]isoindoline-1,3-dione, as prepared in the preceding step, in 120 mL anhydrous ethanol under nitrogen was added 1.5 g of 10 wt % Pd/C. Then the nitrogen in the reaction was replaced with hydrogen and the reaction was stirred at room temperature for 5 h. After the reaction was completed, the mixture was filtered through a pad of Celite (diatomaceous earth). The solvent of the filtrate was removed under reduced pressure. The residue was chromatographed on a silica gel column using ethyl acetate/hexanes (1:1, v/v) as eluent to yield 4.4 g (75%) of white solid as product: 1H NMR (300 MHz, CDCl3) δ7.85-7.81 (m, 2H), 7.78-7.74 (m, 2H), 4.37 (t, J=5.88 Hz, 2H), 3.93 (t, J=5.80 Hz, 2H), 2.55 (br s, 1H), 1.99 (quintet, J=5.86, 2H).

reactant | 2-[3-(phenylmethoxy)propoxy]isoindoline-1,3-dione | 27 mmol, 8.2 g | C1(=CC=CC=C1)COCCCON1C(C2=CC=CC=C2C1=O)=O | C18H17NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-(3-Hydroxypropoxy)isoindoline-1,3-dione | 4.4 g, 75% | OCCCON1C(C2=CC=CC=C2C1=O)=O | C11H11NO4
